US05436240
Palladium charcoal (1.0 g of 10%) was added to a solution of 3-methyl-2-nitroanisole (16.8 g, 0.1 mol) in ethanol (150 mL) and the solution was hydrogenated (50 lb initial hydrogen pressure) until hydrogen uptake ceased (2 hours). The solution was filtered and evaporated to give 13.8 g of 2-methoxy-5-methylbenzenamine (compound XLIV) as an oil. The product was dissolved in acetic anhydride (100 mL) and the resulting solution was refluxed for 1 hour. Part of the solvent (50 mL) was slowly removed over a 1-hour period, after which time the solution was cooled and the remainder of the solvent was removed under reduced pressure. The residual oil was crystallized from ethyl acetate:hexane (200 mL of 1:2) to give 20.5 g of N-acetyl-N-(2-methoxy-6-methylphenyl)-acetamide, mp 115°-119° C. Anal Calcd for C12H15NO3 : C, 65.14; H, 6.83; N, 6.33. Found: C, 65.44; H, 7.04; N, 6.39.

reactant | 3-methyl-2-nitroanisole | 0.1 mol, 16.8 g | CC=1C(=C(C=CC1)OC)[N+](=O)[O-] | C8H9NO3
reactant | hydrogen | 50 lb | [H][H] | H2
reactant | ethanol | 150 mL | C(C)O | C2H6O
catalyst | Palladium charcoal | 1.0 g | [Pd] | Pd
product | 2-methoxy-5-methylbenzenamine | 13.8 g | COC1=C(C=C(C=C1)C)N | C8H11NO
